US04624943
1,4-Bis(aminomethyl)benzene (10 g, 73.4 mmol) was dissolved in methylene chloride (150 ml) and was treated at room temperature with di-tert-butyl dicarbonate (5.62 ml, 24.5 mmol) and the resulting solution was stirred at room temperature for 46 hr. The reaction was then diluted with chloroform, washed with water, dried (MgSO4) and evaporated. The residue was dissolved in a minimum of 1N hydrochloric acid, washed with chloroform, made basic with solid sodium carbonate (pH=9) and extracted with ethyl acetate. The ethyl acetate extracts were combined, dried (MgSO4) and evaporated to give pure mono-Boc-1,4-bis(aminomethyl)benzene whose structure was confirmed by 1H NMR and CI-MS [(M+H+ =237].

reactant | 1,4-Bis(aminomethyl)benzene | 73.4 mmol, 10 g | NCC1=CC=C(C=C1)CN | C8H12N2
reactant | di-tert-butyl dicarbonate | 24.5 mmol, 5.62 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | mono-Boc-1,4-bis(aminomethyl)benzene | C(=O)(OC(C)(C)C)C1=C(C=CC(=C1)CN)CN | C13H20N2O2
